US06747023B1
1,4-Dibenzyl-2-(2-methyl-1-propenyl)piperazine
After cooling a methylene chloride solution (400 ml) of 1,4-dibenzyl-2-ethoxycarbonylpiperazine (19.57 g) to −78° C., diisobutylaluminum hydride (a 0.95 mole hexane solution, 121.7 ml) was added dropwise. The resulting mixture was stirred at −78° C. for 2.5 hours. A saturated aqueous solution of ammonium chloride and methylene chloride were added and then, the water layer was extracted three times. The organic layers were combined, washed with distilled water and dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was provided for the subsequent reaction without purification. After cooling a tetrahydrofuran solution (300 ml) of isopropyltriphenylphosphonium iodide (25.0 g) to −78° C., n-butyl lithium (a 1.53 mole hexane solution, 37.8 ml) was added dropwise, followed by stirring at −78° C. for 30 minutes. A solution of the residue, which had been obtained above, in tetrahydrofuran was added dropwise to the reaction mixture. The resulting mixture was heated gradually from −78° C. and stirred overnight. A saturated aqueous solution of ammonium chloride was added to terminate the reaction. Ethyl acetate was added and the water layer was extracted three times. The organic layers were combined, washed with saturated aqueous NaCl solution and dried over anhydrous magnesium sulfate. The residue obtained by distilling off the solvent under reduced pressure The residue was subjected to chromatography on a silica gel column (ethyl acetate:hexane=1:20), whereby the title compound (6.0 g) was obtained as a pale yellow oil.

reactant | 1,4-dibenzyl-2-ethoxycarbonylpiperazine | 19.57 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C(=O)OCC | C21H26N2O2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hexane | 0.95 mole | CCCCCC | C6H14
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | isopropyltriphenylphosphonium iodide | 25.0 g | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 1.53 mole | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 1,4-Dibenzyl-2-(2-methyl-1-propenyl)piperazine | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C=C(C)C | C22H28N2
